US07291631B2
COMPOUND 353: 8-[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid hydroxyamide
A mixture of (3-aza-bicyclo[3.2.1]oct-8-yl)-bis-(3-methyl-pyridin-2-ylmethyl)-amine (0.064 g, 0.19 mmol) and hydroxylaminecarboxylic acid phenyl ester (PhOCONHOH) (0.058 g, 0.38 mmol) in dry THF (4 mL) was heated at reflux overnight. Water (10 mL) was then added, and the mixture was extracted with EtOAc (20 mL) and CH2Cl2 (2×20 mL). The extracts were combined and dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (100:5:4 CH2Cl2/MeOH/NH4OH), affording the product as a white solid (0.056 g, 75%).

reactant | (3-aza-bicyclo[3.2.1]oct-8-yl)-bis-(3-methyl-pyridin-2-ylmethyl)-amine | 0.19 mmol, 0.064 g | C12CNCC(CC1)C2N(CC2=NC=CC=C2C)CC2=NC=CC=C2C | C21H28N4
reactant | hydroxylaminecarboxylic acid phenyl ester | 0.38 mmol, 0.058 g | C1(=CC=CC=C1)OC(=O)NO | C7H7NO3
reactant | Water | 10 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 8-[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid hydroxyamide | 0.056 g, 75% | ONC(=O)N1CC2CCC(C1)C2N(CC2=NC=CC=C2C)CC2=NC=CC=C2C | C22H29N5O2
